US07524843B2
Preparation of (E)-3-(6-aminopyridin-3-yl)-N-(1,3-dimethyl-1H-indol-2-ylmethyl)-N-methylacrylamide
To a stirred solution of 1,3-dimethyl-2-(methylaminomethyl)-1H-indole (0.6 g, 3.2 mmole) in 1:1 DMF/CH2Cl2 (25 mL) was added (E)-3-(6-aminopyridin-3-yl)acrylic acid (0.50 g, 3 mmole), HOBt.H2O (0.43 g, 3.2 mmole), and DCC (0.66 g, 3.2 mmole). After stirring at RT for 16 hr the reaction was concentrated under vacuum. Purification by flash chromatography on silica gel (3% methanol/CHCl3) gave the title compound (0.83 g, 83%) as an off-white solid: LCMS (ES) m/e 335.4 (M+H)+.

reactant | 1,3-dimethyl-2-(methylaminomethyl)-1H-indole | 3.2 mmole, 0.6 g | CN1C(=C(C2=CC=CC=C12)C)CNC | C12H16N2
reactant | (E)-3-(6-aminopyridin-3-yl)acrylic acid | 3 mmole, 0.50 g | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 3.2 mmole, 0.43 g | O | H2O
reactant | DCC | 3.2 mmole, 0.66 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF CH2Cl2 | 25 mL | CN(C)C=O.C(Cl)Cl
product | (E)-3-(6-aminopyridin-3-yl)-N-(1,3-dimethyl-1H-indol-2-ylmethyl)-N-methylacrylamide | 0.83 g, 83% | NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC=1N(C2=CC=CC=C2C1C)C | C20H22N4O
